US04435395
Diethyl 1,4-dihydro-4-(2-nitrophenyl)-6-methyl-1-(2-morpholinoethyl)-3,5-pyridazine dicarboxylate
This compound is prepared using the procedure of Example 1 from diethyl 1,4-dihydro-4-(2-nitrophenyl)-6-methyl-3,5-pyridazine dicarboxylate and N-(2-chloroethyl)morpholine.

reactant | diethyl 1,4-dihydro-4-(2-nitrophenyl)-6-methyl-3,5-pyridazine dicarboxylate | [N+](=O)([O-])C1=C(C=CC=C1)C1C(=NNC(=C1C(=O)OCC)C)C(=O)OCC | C17H19N3O6
reactant | N-(2-chloroethyl)morpholine | ClCCN1CCOCC1 | C6H12ClNO
product | Diethyl 1,4-dihydro-4-(2-nitrophenyl)-6-methyl-1-(2-morpholinoethyl)-3,5-pyridazine dicarboxylate | [N+](=O)([O-])C1=C(C=CC=C1)C1C(=NN(C(=C1C(=O)OCC)C)CCN1CCOCC1)C(=O)OCC | C23H30N4O7
